US05716971
DMF (100 ml) was added to a mixture of 2-(5-bromo-4-chloro-α-cyano-2-methoxymethoxybenzyl)-3-methoxymethoxypyridine (10.1 g) and potassium carbonate (9.84 g). The mixture was stirred at room temperature overnight under oxygen atmosphere. The reaction mixture was poured into water, which was subjected to extraction with ethyl acetate. The organic layer was washed with a saturated aqueous saline solution, dried (anhydrous magnesium sulfate), and concentrated. The concentrate was purified by a silica gel column chromatography (eluted with ethyl acetate/hexane) to give 2-(5-bromo-4-chloro-2-methoxymethoxybenzoyl)-3-methoxymethoxypyridine (9.08 g, m.p. 70°-72° C.). The spectrum data are shown as follows:

reactant | DMF | 100 ml | CN(C)C=O | C3H7NO
reactant | 2-(5-bromo-4-chloro-α-cyano-2-methoxymethoxybenzyl)-3-methoxymethoxypyridine | 10.1 g | BrC=1C(=CC(=C(C(C#N)C2=NC=CC=C2OCOC)C1)OCOC)Cl | C17H16BrClN2O4
reactant | potassium carbonate | 9.84 g | C([O-])([O-])=O.[K+].[K+]
solvent | water | O | H2O
product | 2-(5-bromo-4-chloro-2-methoxymethoxybenzoyl)-3-methoxymethoxypyridine | 9.08 g | BrC=1C(=CC(=C(C(=O)C2=NC=CC=C2OCOC)C1)OCOC)Cl | C16H15BrClNO5
